US06391887B1
8-Methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
8-Methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one (0.78 g, 3.6 mmol) and magnesium (2.5 g, 103 mmol) are reacted to form 80 mg (10%) of product analogously to Example 7.

reactant | 8-Methoxy-1,2,3,5-tetrahydrocyclopenta[c]quinolin-4-one | 3.6 mmol, 0.78 g | COC1=CC=2C3=C(C(NC2C=C1)=O)CCC3 | C13H13NO2
reactant | magnesium | 103 mmol, 2.5 g | [Mg] | Mg
product | 8-Methoxy-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 80 mg, 10% | COC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C13H15NO2
